** Name: SimpleTwoStageOpAmp_SimpleOpAmp85_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp85_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=7e-6
mDiodeTransistorNmos2 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=9e-6 W=302e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=12e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourceTransconductance sourceTransconductance pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos5 out outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=535e-6
mNormalTransistorNmos6 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=9e-6 W=302e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=12e-6
mNormalTransistorPmos8 out ibias sourcePmos sourcePmos pmos4 L=4e-6 W=600e-6
mNormalTransistorPmos9 outFirstStage outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=100e-6
mNormalTransistorPmos10 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=18e-6
mNormalTransistorPmos11 sourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=183e-6
mNormalTransistorPmos12 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=100e-6
mNormalTransistorPmos13 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance pmos4 L=5e-6 W=499e-6
mNormalTransistorPmos14 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance pmos4 L=5e-6 W=499e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 7.70001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp85_1

** Expected Performance Values: 
** Gain: 101 dB
** Power consumption: 3.50201 mW
** Area: 14996 (mu_m)^2
** Transit frequency: 13.8071 MHz
** Transit frequency with error factor: 13.8 MHz
** Slew rate: 19.8644 V/mu_s
** Phase margin: 60.1606°
** CMRR: 104 dB
** VoutMax: 4.57001 V
** VoutMin: 0.150001 V
** VcmMax: 3.81001 V
** VcmMin: 0.180001 V


** Expected Currents: 
** NormalTransistorNmos: 26.1701 muA
** NormalTransistorPmos: -15.2989 muA
** NormalTransistorPmos: -64.6869 muA
** NormalTransistorPmos: -64.6869 muA
** DiodeTransistorNmos: 64.6861 muA
** NormalTransistorNmos: 64.6861 muA
** NormalTransistorPmos: -155.545 muA
** NormalTransistorPmos: -64.6879 muA
** NormalTransistorPmos: -64.6879 muA
** NormalTransistorNmos: 509.489 muA
** NormalTransistorPmos: -509.488 muA
** DiodeTransistorNmos: 15.2981 muA
** DiodeTransistorPmos: -26.1709 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.00201  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outVoltageBiasXXnXX0: 0.632001  V
** outVoltageBiasXXpXX1: 2.30601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.25401  V
** out1: 0.556001  V
** sourceGCC1: 3.06001  V
** sourceGCC2: 3.06001  V


.END