** Name: SimpleTwoStageOpAmp_SimpleOpAmp85_4

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp85_4 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=3e-6 W=288e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=89e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=5e-6 W=13e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourceTransconductance sourceTransconductance pmos4 L=1e-6 W=20e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=3e-6 W=7e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=3e-6 W=307e-6
mNormalTransistorNmos8 out inputVoltageBiasXXnXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=177e-6
mNormalTransistorNmos9 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=89e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX2 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=3e-6 W=383e-6
mNormalTransistorNmos11 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=3e-6 W=527e-6
mNormalTransistorPmos12 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=5e-6 W=98e-6
mNormalTransistorPmos13 out outVoltageBiasXXpXX2 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=3e-6 W=318e-6
mNormalTransistorPmos14 outFirstStage inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=84e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=5e-6 W=253e-6
mNormalTransistorPmos16 sourceTransconductance ibias sourcePmos sourcePmos pmos4 L=5e-6 W=495e-6
mNormalTransistorPmos17 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=84e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance pmos4 L=1e-6 W=22e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance pmos4 L=1e-6 W=22e-6
mNormalTransistorPmos20 SecondStageYinnerStageBias ibias sourcePmos sourcePmos pmos4 L=5e-6 W=434e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp85_4

** Expected Performance Values: 
** Gain: 140 dB
** Power consumption: 6.39801 mW
** Area: 12730 (mu_m)^2
** Transit frequency: 13.5921 MHz
** Transit frequency with error factor: 13.5706 MHz
** Slew rate: 23.3524 V/mu_s
** Phase margin: 60.1606°
** CMRR: 91 dB
** VoutMax: 4.11001 V
** VoutMin: 0.300001 V
** VcmMax: 3.5 V
** VcmMin: 0.230001 V


** Expected Currents: 
** NormalTransistorNmos: 212.616 muA
** NormalTransistorNmos: 263.236 muA
** NormalTransistorPmos: -195.807 muA
** NormalTransistorPmos: -75.4319 muA
** NormalTransistorPmos: -87.7199 muA
** NormalTransistorPmos: -87.7199 muA
** DiodeTransistorNmos: 87.7191 muA
** NormalTransistorNmos: 87.7191 muA
** NormalTransistorPmos: -388.056 muA
** NormalTransistorPmos: -87.7209 muA
** NormalTransistorPmos: -87.7209 muA
** NormalTransistorNmos: 337.12 muA
** NormalTransistorNmos: 337.119 muA
** NormalTransistorPmos: -337.119 muA
** NormalTransistorPmos: -337.12 muA
** DiodeTransistorNmos: 195.808 muA
** DiodeTransistorNmos: 75.4311 muA
** DiodeTransistorPmos: -212.615 muA
** DiodeTransistorPmos: -263.235 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.97001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.705001  V
** inputVoltageBiasXXpXX1: 2.19501  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outVoltageBiasXXnXX0: 0.561001  V
** outVoltageBiasXXpXX2: 1.93601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.53401  V
** out1: 0.557001  V
** sourceGCC1: 3.00101  V
** sourceGCC2: 3  V
** innerStageBias: 2.92001  V
** innerTransconductance: 0.150001  V


.END