** Name: SimpleTwoStageOpAmp_SimpleOpAmp8_11

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp8_11 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=9e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=172e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=7e-6 W=288e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=15e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=2e-6 W=67e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=10e-6 W=575e-6
mNormalTransistorNmos7 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=45e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=360e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=136e-6
mNormalTransistorNmos10 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=45e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=42e-6
mNormalTransistorNmos12 SecondStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=342e-6
mNormalTransistorPmos13 out outVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=413e-6
mNormalTransistorPmos14 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=2e-6 W=67e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=7e-6 W=202e-6
mNormalTransistorPmos16 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=494e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp8_11

** Expected Performance Values: 
** Gain: 139 dB
** Power consumption: 6.32901 mW
** Area: 14678 (mu_m)^2
** Transit frequency: 13.5171 MHz
** Transit frequency with error factor: 13.4926 MHz
** Slew rate: 19.8394 V/mu_s
** Phase margin: 63.0254°
** CMRR: 97 dB
** negPSRR: 113 dB
** posPSRR: 94 dB
** VoutMax: 4.57001 V
** VoutMin: 0.440001 V
** VcmMax: 4.64001 V
** VcmMin: 0.800001 V


** Expected Currents: 
** NormalTransistorNmos: 395.922 muA
** NormalTransistorNmos: 152.301 muA
** NormalTransistorPmos: -282.928 muA
** DiodeTransistorPmos: -23.0959 muA
** NormalTransistorPmos: -23.0959 muA
** NormalTransistorNmos: 46.1911 muA
** NormalTransistorNmos: 23.0951 muA
** NormalTransistorNmos: 23.0951 muA
** NormalTransistorNmos: 378.423 muA
** NormalTransistorNmos: 378.422 muA
** NormalTransistorPmos: -378.422 muA
** NormalTransistorPmos: -378.421 muA
** DiodeTransistorNmos: 282.929 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -395.921 muA
** DiodeTransistorPmos: -152.3 muA


** Expected Voltages: 
** ibias: 0.567001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.22801  V
** outVoltageBiasXXnXX1: 0.845001  V
** outVoltageBiasXXpXX0: 3.69901  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 4.23901  V
** sourceTransconductance: 1.86101  V
** innerStageBias: 0.162001  V
** innerTransconductance: 4.47601  V


.END