** Name: SimpleTwoStageOpAmp_SimpleOpAmp92_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp92_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=5e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=48e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=115e-6
mDiodeTransistorPmos4 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=3e-6 W=65e-6
mNormalTransistorNmos5 out ibias sourceNmos sourceNmos nmos4 L=3e-6 W=600e-6
mNormalTransistorNmos6 outFirstStage outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=48e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=26e-6
mNormalTransistorNmos8 sourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=138e-6
mNormalTransistorNmos9 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=48e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=24e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=24e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=549e-6
mNormalTransistorPmos13 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=3e-6 W=65e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=398e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 5.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp92_7

** Expected Performance Values: 
** Gain: 94 dB
** Power consumption: 7.67501 mW
** Area: 4095 (mu_m)^2
** Transit frequency: 17.5461 MHz
** Transit frequency with error factor: 17.5364 MHz
** Slew rate: 49.2824 V/mu_s
** Phase margin: 60.1606°
** CMRR: 91 dB
** VoutMax: 4.65001 V
** VoutMin: 0.260001 V
** VcmMax: 4.35001 V
** VcmMin: 0.820001 V


** Expected Currents: 
** NormalTransistorNmos: 52.0391 muA
** NormalTransistorPmos: -181.034 muA
** NormalTransistorNmos: 45.7121 muA
** NormalTransistorNmos: 45.7121 muA
** DiodeTransistorPmos: -45.7129 muA
** NormalTransistorPmos: -45.7129 muA
** NormalTransistorNmos: 272.458 muA
** NormalTransistorNmos: 45.7121 muA
** NormalTransistorNmos: 45.7121 muA
** NormalTransistorNmos: 1200.43 muA
** NormalTransistorPmos: -1200.42 muA
** DiodeTransistorNmos: 181.035 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -52.0399 muA


** Expected Voltages: 
** ibias: 0.670001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.08501  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 4.27701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** out1: 4.09101  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END