** Name: SimpleTwoStageOpAmp_SimpleOpAmp93_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp93_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=6e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=31e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=38e-6
mDiodeTransistorPmos4 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourcePmos sourcePmos pmos4 L=10e-6 W=470e-6
mNormalTransistorNmos5 out ibias sourceNmos sourceNmos nmos4 L=4e-6 W=600e-6
mNormalTransistorNmos6 outFirstStage outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=19e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=52e-6
mNormalTransistorNmos8 sourceTransconductance ibias sourceNmos sourceNmos nmos4 L=4e-6 W=183e-6
mNormalTransistorNmos9 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=19e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=38e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=38e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=324e-6
mNormalTransistorPmos13 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=3e-6 W=138e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=105e-6
mNormalTransistorPmos15 FirstStageYout1 FirstStageYinnerTransistorStack2Load2 sourcePmos sourcePmos pmos4 L=10e-6 W=470e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 5.20001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp93_7

** Expected Performance Values: 
** Gain: 139 dB
** Power consumption: 7.04001 mW
** Area: 14152 (mu_m)^2
** Transit frequency: 14.6271 MHz
** Transit frequency with error factor: 14.6271 MHz
** Slew rate: 58.3252 V/mu_s
** Phase margin: 60.1606°
** CMRR: 140 dB
** VoutMax: 4.58001 V
** VoutMin: 0.280001 V
** VcmMax: 4.27001 V
** VcmMin: 0.830001 V


** Expected Currents: 
** NormalTransistorNmos: 86.1951 muA
** NormalTransistorPmos: -233.836 muA
** NormalTransistorNmos: 36.1881 muA
** NormalTransistorNmos: 36.1881 muA
** NormalTransistorPmos: -36.1889 muA
** NormalTransistorPmos: -36.1889 muA
** DiodeTransistorPmos: -36.1889 muA
** NormalTransistorNmos: 306.212 muA
** NormalTransistorNmos: 36.1881 muA
** NormalTransistorNmos: 36.1881 muA
** NormalTransistorNmos: 1005.54 muA
** NormalTransistorPmos: -1005.53 muA
** DiodeTransistorNmos: 233.837 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -86.1959 muA


** Expected Voltages: 
** ibias: 0.685001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.01801  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 3.82201  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerTransistorStack2Load2: 4.22801  V
** out1: 3.45401  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END