** Name: SimpleTwoStageOpAmp_SimpleOpAmp9_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp9_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=4e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=24e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=18e-6
mDiodeTransistorPmos4 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 sourcePmos sourcePmos pmos4 L=7e-6 W=210e-6
mNormalTransistorNmos5 inputVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=31e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=1e-6 W=163e-6
mNormalTransistorNmos7 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=80e-6
mNormalTransistorNmos8 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=80e-6
mNormalTransistorNmos9 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=33e-6
mNormalTransistorNmos10 SecondStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=600e-6
mNormalTransistorPmos11 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=256e-6
mNormalTransistorPmos12 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=10e-6 W=400e-6
mNormalTransistorPmos13 outVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=184e-6
mNormalTransistorPmos14 FirstStageYout1 FirstStageYinnerTransistorStack2Load1 sourcePmos sourcePmos pmos4 L=7e-6 W=210e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.40001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp9_8

** Expected Performance Values: 
** Gain: 96 dB
** Power consumption: 12.3301 mW
** Area: 10229 (mu_m)^2
** Transit frequency: 18.3701 MHz
** Transit frequency with error factor: 18.3587 MHz
** Slew rate: 17.8874 V/mu_s
** Phase margin: 60.1606°
** CMRR: 105 dB
** negPSRR: 102 dB
** posPSRR: 96 dB
** VoutMax: 4.42001 V
** VoutMin: 0.630001 V
** VcmMax: 4.33001 V
** VcmMin: 0.860001 V


** Expected Currents: 
** NormalTransistorNmos: 77.9371 muA
** NormalTransistorPmos: -788.253 muA
** NormalTransistorPmos: -40.6619 muA
** NormalTransistorPmos: -40.6619 muA
** DiodeTransistorPmos: -40.6619 muA
** NormalTransistorNmos: 81.3231 muA
** NormalTransistorNmos: 40.6611 muA
** NormalTransistorNmos: 40.6611 muA
** NormalTransistorNmos: 1508.47 muA
** NormalTransistorNmos: 1508.47 muA
** NormalTransistorPmos: -1508.46 muA
** DiodeTransistorNmos: 788.254 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -77.9379 muA


** Expected Voltages: 
** ibias: 0.702001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX0: 3.94401  V
** out: 2.5  V
** outFirstStage: 3.85901  V
** outVoltageBiasXXnXX1: 1.03101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack2Load1: 4.16101  V
** out1: 3.35901  V
** sourceTransconductance: 1.94001  V
** innerStageBias: 0.297001  V


.END