** Name: SimpleTwoStageOpAmp_SimpleOpAmp1_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp1_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=3e-6 W=8e-6
mDiodeTransistorNmos2 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=76e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=20e-6
mDiodeTransistorPmos4 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=1e-6 W=22e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=443e-6
mNormalTransistorNmos6 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=434e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=76e-6
mNormalTransistorNmos8 outInputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=3e-6 W=61e-6
mNormalTransistorPmos9 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=443e-6
mNormalTransistorPmos10 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=243e-6
mNormalTransistorPmos11 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=11e-6
mNormalTransistorPmos12 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=243e-6
mNormalTransistorPmos13 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=571e-6
mNormalTransistorPmos14 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=22e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp1_5

** Expected Performance Values: 
** Gain: 91 dB
** Power consumption: 5.94501 mW
** Area: 8991 (mu_m)^2
** Transit frequency: 33.7341 MHz
** Transit frequency with error factor: 33.6106 MHz
** Slew rate: 66.481 V/mu_s
** Phase margin: 70.4739°
** CMRR: 90 dB
** negPSRR: 91 dB
** posPSRR: 226 dB
** VoutMax: 3.79001 V
** VoutMin: 0.150001 V
** VcmMax: 3.52001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorNmos: 41.9431 muA
** NormalTransistorPmos: -5.54899 muA
** DiodeTransistorNmos: 145.45 muA
** NormalTransistorNmos: 145.45 muA
** NormalTransistorPmos: -290.899 muA
** NormalTransistorPmos: -145.449 muA
** NormalTransistorPmos: -145.449 muA
** NormalTransistorNmos: 830.601 muA
** NormalTransistorPmos: -830.6 muA
** DiodeTransistorPmos: -830.601 muA
** DiodeTransistorNmos: 5.54801 muA
** DiodeTransistorPmos: -41.9439 muA
** NormalTransistorPmos: -41.9439 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.10001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outInputVoltageBiasXXpXX1: 3.22201  V
** outSourceVoltageBiasXXpXX1: 4.11101  V
** outVoltageBiasXXnXX0: 0.561001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.555001  V
** sourceTransconductance: 3.64001  V
** inner: 4.11101  V


.END